US05116404
7.0 g of the obtained 3-(4-methoxymethoxyphenyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione was dissolved in 100 ml of tetrahydrofuran and then added dropwise with 10 ml of concentrated hydrochloric acid with stirring at room temperature. The mixed solution was further stirred at room temperature for 12 hours and extracted with 200 ml of ethyl acetate. The organic layer was washed with a sodium chloride aqueous solution and dried over anhydrous sodium sulfate. Then the solvent was distilled away under reduced pressure to obtain 4.5 g of 3-(4-hydroxyphenyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione.

reactant | 3-(4-methoxymethoxyphenyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione | 7.0 g | COCOC1=CC=C(C=C1)N1C(NC(=CC1=O)C1=C(C=CC=C1)Cl)=O | C18H15ClN2O4
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(4-hydroxyphenyl)-6-(2-chlorophenyl)-2,4(1H,3H)-pyrimidinedione | 4.5 g | OC1=CC=C(C=C1)N1C(NC(=CC1=O)C1=C(C=CC=C1)Cl)=O | C16H11ClN2O3
